* Schematics Netlist *



X_U23A         $N_0001 $N_0002 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U24A         $N_0003 $N_0004 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U25A         C1 $N_0005 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U50A         C3 S3 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U33A         $N_0005 $N_0001 C2 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U32A         $N_0005 $N_0002 $N_0004 C4 $G_DPWR $G_DGND 7411 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U35A         $N_0005 $N_0002 $N_0003 C3 $G_DPWR $G_DGND 7411 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_P1         STIM(1,1) $G_DPWR $G_DGND $N_0003 IO_STM IO_LEVEL=0 
+ 0 0
+ +0.5ms 1
+REPEAT FOREVER
+ +0.5ms 0
+  +0.5ms 1
+ ENDREPEAT
U_P0         STIM(1,1) $G_DPWR $G_DGND $N_0001 IO_STM IO_LEVEL=0 
+ 0 0
+ +1ms 1
+REPEAT FOREVER
+ +1ms 0
+  +1ms 1
+ ENDREPEAT
U_P2         STIM(1,1) $G_DPWR $G_DGND C1 IO_STM IO_LEVEL=0 
+ 0 0
+ +2ms 1
+REPEAT FOREVER
+ +2ms 0
+  +2ms 1
+ ENDREPEAT
X_U49A         C3 C4 S2 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U18         $D_HI $D_HI $D_LO $D_HI $D_LO $D_HI $D_HI $D_LO C2 $D_LO S2 S3 S2
+  C1 $N_0014 $N_0015 $N_0016 $N_0017 $N_0018 $N_0021 $N_0020 $N_0019 $G_DPWR
+  $G_DGND 74181 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
