* Schematics Netlist *



X_U1A         $N_0001 $N_0002 C2 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U10A         C1 $N_0001 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U11A         $N_0001 $N_0003 $N_0004 C3 $G_DPWR $G_DGND 7411 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U12A         $N_0002 $N_0003 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U13A         $N_0001 $N_0003 $N_0005 C4 $G_DPWR $G_DGND 7411 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U14A         $N_0004 $N_0005 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_P1         STIM(1,1) $G_DPWR $G_DGND $N_0004 IO_STM IO_LEVEL=0 
+ 0 0
+ +0.5ms 1
+REPEAT FOREVER
+ +0.5ms 0
+  +0.5ms 1
+ ENDREPEAT
U_P0         STIM(1,1) $G_DPWR $G_DGND $N_0002 IO_STM IO_LEVEL=0 
+ 0 0
+ +1ms 1
+REPEAT FOREVER
+ +1ms 0
+  +1ms 1
+ ENDREPEAT
U_P2         STIM(1,1) $G_DPWR $G_DGND C1 IO_STM IO_LEVEL=0 
+ 0 0
+ +2ms 1
+REPEAT FOREVER
+ +2ms 0
+  +2ms 1
+ ENDREPEAT
