* Schematics Netlist *



X_U4A         $N_0001 $N_0002 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6A         $N_0003 $N_0004 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         C1 $N_0005 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         $N_0005 $N_0002 $N_0003 C3 $G_DPWR $G_DGND 7411 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U32A         $N_0006 Cn $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U33A         $N_0007 M $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U35A         S2 $N_0007 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U29A         C2 $N_0008 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1A         $N_0005 $N_0001 C2 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5A         $N_0005 $N_0002 $N_0004 C4 $G_DPWR $G_DGND 7411 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U34A         C3 C4 S2 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U30A         $D_HI S1 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U28A         $N_0008 S0 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U36A         C1 $N_0006 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U31A         C3 S3 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_P0         STIM(1,1) $G_DPWR $G_DGND $N_0001 IO_STM IO_LEVEL=0 
+ 0 0
+ +1ms 1
+REPEAT FOREVER
+ +1ms 0
+  +1ms 1
+ ENDREPEAT
U_P1         STIM(1,1) $G_DPWR $G_DGND $N_0003 IO_STM IO_LEVEL=0 
+ 0 0
+ +0.5ms 1
+REPEAT FOREVER
+ +0.5ms 0
+  +0.5ms 1
+ ENDREPEAT
U_P2         STIM(1,1) $G_DPWR $G_DGND C1 IO_STM IO_LEVEL=0 
+ 0 0
+ +2ms 1
+REPEAT FOREVER
+ +2ms 0
+  +2ms 1
+ ENDREPEAT
